US06605629B1
Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate (1.00 g) was dissolved in toluene (15 ml). To the obtained solution was added dropwise a mixture of a 70% toluene solution (1.20 g) of sodium dihydrobis(2-methoxyethoxy)aluminate, and toluene (5 ml) at 0° C., which was stirred at 0° C. for 30 minutes. To the reaction mixture was carefully added a 10% aqueous solution of (+)-sodium potassium tartrate sesquihydrate (50 ml), which was stirred at room temperature for 1 hour. The precipitated crystals were filtered, washed in sequence with a 10% aqueous solution of (+)-sodium potassium tartratesesquihydrate, pure water and isopropyl ether, and air-dried to give crystals of 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol (0.75 g, 81%). Recrystallization from ethyl acetate-isopropyl ether gave pale yellow prisms. Melting point 127-129° C.

reactant | Methyl 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropionate | 1.00 g | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCC(=O)OC | C18H16F3N3O3
reactant | (+)-sodium potassium tartrate sesquihydrate | 50 ml | O.C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+].O.O.[Na+].[K+].C(=O)([O-])C(O)C(O)C(=O)[O-]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.20 g | C1(=CC=CC=C1)C | C7H8
product | 2-(2-methyl-1-imidazolyl)-4-(4-trifluoromethylphenyl)-5-oxazolepropanol | 0.75 g, 81% | CC=1N(C=CN1)C=1OC(=C(N1)C1=CC=C(C=C1)C(F)(F)F)CCCO | C17H16F3N3O2
